US07662965B2
Synthesis of 3-(3-(biphenyl-4-ylmethylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine dihydrochloride
3-(5-Ammoniopentanoyl)pyridinium chloride (128 mg, 0.51 mmol) was suspended in methanol (2 mL) and treated with N,N-diisopropylethylamine (165 mg, 1.27 mmol) in a reaction vessel. This gave a clear solution. A dual solution of 0.6 M acetic acid and 0.3 M sodium acetate in methanol (10 mL) was then added, followed by addition of 4-phenylbenzaldehyde (140 mg, 0.76 mmol). The reaction vessel was then sealed and the reaction heated to 80 ° C. overnight then cooled to room temperature. The reaction mixture was then concentrated under reduced pressure, treated with a saturated solution of NaHCO3(aq), and extracted three times with EtOAc. The EtOAc extracts were washed with brine, then combined, dried over Na2SO4, filtered and concentrated under reduced pressure. The recovered material was eluted through a 20 gram column of silica gel with 7:7:7:1:0.1 hexane:MtBE:CH2Cl2:MeOH:NH4OH eluant. One sample was recovered and dried under vacuum. This sample was then dissolved into MeOH and treated with two equivalents of 6 N HCl(aq), concentrated under reduced pressure and re-crystallized from isopropanol giving 80 mg (39%) of yellow needles. LC-MS: RT=5.72 min, [M+H]+ =325.1.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.51 mmol, 128 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | N,N-diisopropylethylamine | 1.27 mmol, 165 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium acetate | 0.3 M | C(C)(=O)[O-].[Na+]
reactant | 4-phenylbenzaldehyde | 0.76 mmol, 140 mg | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | HCl | 6 N, two equivalents | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | acetic acid | 0.6 M | C(C)(=O)O | C2H4O2
product | 3-(3-(biphenyl-4-ylmethylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine dihydrochloride | Cl.Cl.C1(=CC=C(C=C1)C=C1C(=NCCC1)C=1C=NC=CC1)C1=CC=CC=C1 | InChI=1S/C23H20N2.2ClH/c1-2-6-19(7-3-1)20-12-10-18(11-13-20)16-21-8-5-15-25-23(21)22-9-4-14-24-17-22;;/h1-4,6-7,9-14,16-17H,5,8,15H2;2*1H
